US06818652B2
A solution of 4-(3-bromo-phenoxy)-2-methyl-butan-2-ol (5.741 g, 22.2 mmole) in 45 mL of nitromethane was added dropwise to a suspension of aluminum chloride (4.019 g, 30.1 mmole) in 45 mL of nitromethane. The reaction mixture was stirred at room temperature for two hours and then poured onto 300 mL of ice-water. The pH was adjusted to 2.0 with 10% HCl and the product was extracted with three 100 mL portions of ether. The combined organic extracts were dried over MgSO4, filtered and concentrated in vacuo to give a purple oil. The product was purified by flash chromatography (SiO2, 1% ethyl acetate in hexanes) to yield 4.667 g of 7-bromo-4,4-dimethyl-chroman as a colorless oil, which contained about 16% of 5-bromo-4,4-dimethyl-chroman.

reactant | 4-(3-bromo-phenoxy)-2-methyl-butan-2-ol | 22.2 mmole, 5.741 g | BrC=1C=C(OCCC(C)(O)C)C=CC1 | C11H15BrO2
reactant | aluminum chloride | 30.1 mmole, 4.019 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
solvent | nitromethane | 45 mL | [N+](=O)([O-])C | CH3NO2
solvent | nitromethane | 45 mL | [N+](=O)([O-])C | CH3NO2
product | 7-bromo-4,4-dimethyl-chroman | 4.667 g | BrC1=CC=C2C(CCOC2=C1)(C)C | C11H13BrO
